US07595312B2
8d ethyl 3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-carbonyl]-amino}-propionate
4.15 g (23.04 mmol) of CDT were added at 0° C. to a suspension of 8.00 g (23.04 mmol) of ethyl 2-amino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-propionate and 16.0 mL (115.00 mmol) of triethylamine in 100 mL of DMF and the mixture was stirred for 1.5 h at 0° C. A solution of 5.64 g (23.00 mmol) of 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one in 200 mL of DMF was added and the mixture was heated to 100° C. for 2 h. The reaction mixture was cooled to RT, diluted with 1.5 L water and stirred for a further 10 min. The precipitate formed was filtered off, washed with water and dried i. vac.

reactant | ethyl 2-amino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-propionate | 23.04 mmol, 8.00 g | NC(C(=O)OCC)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl | C12H14ClF3N2O2
reactant | triethylamine | 115.00 mmol, 16.0 mL | C(C)N(CC)CC | C6H15N
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 23.00 mmol, 5.64 g | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | 1.5 L | O | H2O
product | ethyl 3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-carbonyl]-amino}-propionate | NC1=C(C=C(C=C1C(F)(F)F)CC(C(=O)OCC)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)Cl | C27H31ClF3N5O4
